data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4439,5071,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[C:10]#[N+:11][C-:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:11]=[C:10]1[C:8]([CH3:7])=[O:9],water,298.15,24.074924477658936,-22.650097308696715
2390,2655,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][C:21](=[O:22])[C:23]#[N+:24][N-:25][C:26]#[N:27]>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[c:11]2[c:12]([c:23]([C:21]([CH3:20])=[O:22])[n:24][n:25]2[C:26]#[N:27])[C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1,water,298.15,23.316047035093387,-67.21213674166547
4079,4672,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C-:12]([O+:13]=[C:14]([CH3:15])[CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:14]([CH3:15])([CH3:16])[O:13][C:12]2([C:10]([CH3:9])=[O:11])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,12.424512486568036,-34.08261334811248
3038,3400,[CH3:9][CH-:10][O+:11]=[C:12]([CH3:13])[CH3:14].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:10]([CH3:9])[O:11][C:12]1([CH3:13])[CH3:14],water,298.15,8.346028133217011,-69.614578221664
3083,3464,[CH2:7]=[NH+:8][C-:9]([CH3:10])[C:11](=[O:12])[NH:13][CH3:14].[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:9]([CH3:10])([C:11](=[O:12])[NH:13][CH3:14])[NH:8][CH2:7]1,water,298.15,20.27120441433841,-26.3303815676405
29,33,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][C:9]#[N+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:9]([CH3:8])=[N:10][C:11]1([C:12]#[N:13])[C:14]#[N:15],water,298.15,17.918043329459735,-65.23115469978869
367,398,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[NH+:15][CH-:16][C:17]([CH3:18])=[O:19]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:16]([C:17]([CH3:18])=[O:19])[NH:15][C:12]1([C:10]([NH:9][CH3:8])=[O:11])[C:13]#[N:14],water,298.15,18.108513443492303,-45.02726182073771
794,860,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[O:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]#[N:23].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15](=[O:16])[O:17][CH3:18])[N:19]([CH3:20])[CH:21]3[C:22]#[N:23],water,298.15,22.707317665585887,-44.930551884789416
4724,5393,[CH3:9][O:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]([C:18]([CH3:19])=[O:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[O:16][C:13]1([C:11]([O:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,14.829150080181757,-41.42122835547718
4227,4837,[CH3:9][C:10](=[O:11])[c-:12]1[o+:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o:21][c:22]1=[O:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]2([C:10]([CH3:9])=[O:11])[O:13][C:14]1([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[O:21][C:22]2=[O:23],water,298.15,21.972278973648933,-11.43116695575509
3468,3949,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([CH3:10])[O+:11]=[CH:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([CH3:10])[O:11][CH:12]1[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,11.389150769050008,-47.23223657614646
1045,1140,[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[N:9]#[C:10][C:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]=[C:11]3[C:10]#[N:9],water,298.15,12.658489628180613,-55.228440374134
1075,1172,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2.[CH2-:15][NH+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[Br:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:17]([C:18](=[O:19])[O:20][CH3:21])[NH:16][CH2:15]2,water,298.15,16.554160380900303,-22.789680413031626
